US05223498
A mixture of 1-(2-thiamorpholinophenyl)thiourea (12.6 g), methyl iodide (7.1 g) and acetone (60 ml) was heated at 90°-95° C. for 21/2 hours. The solvent was removed by evaporation and the residue dried under vacuum (5 mm/Hg) to give 2-methyl-1-(2-thiamorpholinophenyl)-2-thiopseudourea hydroidide (m.p. 176°-177° C.).

reactant | 1-(2-thiamorpholinophenyl)thiourea | 12.6 g | O1SCN(CC1)C1=C(C=CC=C1)NC(=S)N | C10H13N3OS2
reactant | methyl iodide | 7.1 g | CI | CH3I
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | 2-methyl-1-(2-thiamorpholinophenyl)-2-thiopseudourea | CSC(NC1=C(C=CC=C1)N1CSOCC1)=N | C11H15N3OS2
